US07244730B2
(Step 4) Methyl 5-bromo-2-(dimethylamino)-4-(hydroxymethyl)benzoate
After dissolving methyl 2-(dimethylamino)-4-(hydroxymethyl)benzoate (1.023 g, 4.9 mmol) in a methylene chloride (15 ml) and methanol (6 ml) mixed solvent, calcium carbonate (2 g) was added, the mixture was stirred, and then benzyltrimethylammonium tribromide (2.100 g, 5.4 mmol) was gradually added and the mixture was stirred at room temperature for 50 minutes. The reaction mixture was filtered and the solvent was distilled off under reduced pressure. Water was added to the residue, extraction was performed with ethyl acetate and the ethyl acetate layer was washed with water and brine. The aqueous layer was then extracted with a methylene chloride and methanol mixed solvent, combined with the ethyl acetate layer, and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the residue was purified by silica gel column chromatography (solvent: n-hexane-ethyl acetate) to yield the title compound (1.179 g) as a white solid. (84% yield)

reactant | methyl 2-(dimethylamino)-4-(hydroxymethyl)benzoate | 4.9 mmol, 1.023 g | CN(C1=C(C(=O)OC)C=CC(=C1)CO)C | C11H15NO3
reactant | calcium carbonate | 2 g | C([O-])([O-])=O.[Ca+2]
reactant | benzyltrimethylammonium tribromide | 5.4 mmol, 2.100 g | [Br-].[Br-].[Br-].C(C1=CC=CC=C1)[N+](C)(C)C.C(C1=CC=CC=C1)[N+](C)(C)C.C(C1=CC=CC=C1)[N+](C)(C)C
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 6 ml | CO | CH4O
product | Methyl 5-bromo-2-(dimethylamino)-4-(hydroxymethyl)benzoate | 1.179 g, 84% yield | BrC=1C(=CC(=C(C(=O)OC)C1)N(C)C)CO | C11H14BrNO3
